US07071177B2
To 2.0 mL (16.07 mmol) of 4-(methylthio)aniline dissolved in 25 mL dichloromethane was added 1.52 mL (16.07 mmol) 3-pyridinecarboxaldehyde, followed by 5.11 g (24.11 mmol) sodium triacetoxyborohydride. The mixture was stirred at room temperature for 4 h, partitioned between EtOAc and brine, dried over MgSO4 and concentrated. Column chromatography, eluting with ethyl acetate/hexane, provided 3.70 g of 4-[(pyridin-2-ylmethyl)amino]thioanisole, pure by 1H NMR.

reactant | 4-(methylthio)aniline | 16.07 mmol, 2.0 mL | CSC1=CC=C(N)C=C1 | C7H9NS
reactant | 3-pyridinecarboxaldehyde | 16.07 mmol, 1.52 mL | N1=CC(=CC=C1)C=O | C6H5NO
reactant | sodium triacetoxyborohydride | 24.11 mmol, 5.11 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | 4-[(pyridin-2-ylmethyl)amino]thioanisole | 3.70 g | N1=C(C=CC=C1)CNC1=CC=C(C=C1)SC | C13H14N2S
